Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
silk tape
 
Attending: ___.
 
Chief Complaint:
dyspnea, decreased activity tolerance, and near
syncope with exertion

 
Major Surgical or Invasive Procedure:
___: 
1. Aortic valve replacement with a 21 mm Magna Ease 
___ pericardial valve.
2. Mitral valve replacement with a 27 mm Biocor Epic tissue 
valve.
3. Aortic root enlargement

 
History of Present Illness:
___ year old male has a history of Hodgkin's disease s/p 
radiation in his teens and subsequent development of coronary 
artery disease, s/p off pump CABG x 3 in
___ (LIMA to LAD, SVG to OM, SVG to PDA). He also has a history
of radiation induced aortic and mitral regurgitation. He has
complaints of exertional dyspnea and fatigue. His stress 
echocardiogram in ___ revealed progression in valvular disease 
and is now referred for a cardiac catheterization and cardiac 
surgery evaluation for redo-sternotomy/AVR/MVR. 

 
Past Medical History:
Aortic Stenosis
Coronary Artery Disease
Hyperlipidemia (diet controlled/vegan diet) 
Mild valve regurgitation
Pleural effusion 
Mild carotid artery disease
Hodgkin's disease diagnosed at age ___ with three recurrences s/p
radiation treatments & chemotherapy
Chronic hepatitis C/mod liver fibrosis following transfusion
(currently denied from taking Harvoni and is appealing) 
Hypothyroidism
___ resection of lipoma from abdomen
GERD (controlled by diet)
Right shoulder necrosis c/b impingement 

Past Surgical History:
Tonsillectomy
Cholecystectomy, ___

Past Cardiac Procedures:
Off Pump CABG (LIMA to LAD, SVG to OM, SVG to PDA) ___
OM 1 stenting in ___
RCA Promus stenting x ___ 

 
Social History:
___
Family History:
Family History:Premature coronary artery disease- Paternal Uncle
died from an MI at age ___. Maternal grandfather died from an MI
in his ___
 
Physical Exam:
Admission Physical Exam
Pulse:90 Resp:18  O2 sat:100/RA
B/P  Right:123/48    Left:114/67
Height:5'9"   Weight:69.9 kg

General:no distress
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade __3/6 systolic____
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+
[x]
Extremities: Warm [x], well-perfused [x]  Edema [] ___none__
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: bandaged  Left:2+
DP           Right:0   Left:0
___           Right: 3+  Left:3+
Radial       Right:2+   Left:2+

Carotid Bruit        Right:present    Left:present

 
Pertinent Results:
TEE ___:
Conclusions  
Pre CPB
The left atrium is moderately dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Regional left ventricular wall motion is normal. Overall 
left ventricular systolic function is low normal (LVEF 50-55%). 
[Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.]
Right ventricular chamber size and free wall motion are normal. 
The aortic valve leaflets are severely thickened/deformed. There 
is severe aortic valve stenosis (valve area <1.0cm2). Severe 
(4+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is a 
minimally increased gradient consistent with trivial mitral 
stenosis. Moderate to severe (3+) mitral regurgitation is seen. 

Post CPB
The patient separated from bypass with a phenylephrine infusion.
A bioprothetic mitral valve is seen in anatomic position. The 
valve is well seated with no perivalvular leak. The gradient 
acros the valve is ___ mmHg.
A bioprothetic aortic valve is seen in anatomic position. The 
valve is well seated with no perivalvular leak. The residual 
mean gradient is 13 mmHg.
Biventricular function is well preserved. There is no sign of 
aortic injury or dissection. No other significant changes 
appreciated from prebypass exam.

 

CHEST CT W/O CONTRAST (___):
IMPRESSION:   
1.  Heavily calcified aortic valve, consistent with history of 
aortic 
stenosis. Normal caliber thoracic aorta with vascular 
calcifications as 
described above.  These images are available for review for 
preoperative 
planning.   
2. Nonspecific pleural and parenchymal scarring in the left 
lower lobe. 
  

LABS:

___ 05:06AM BLOOD WBC-9.8 RBC-2.92* Hgb-9.2* Hct-27.2* 
MCV-93 MCH-31.5 MCHC-33.8 RDW-15.3 Plt ___
___ 04:49AM BLOOD WBC-16.5*# RBC-3.10* Hgb-10.0* Hct-29.1* 
MCV-94 MCH-32.2* MCHC-34.4 RDW-15.3 Plt ___
___ 05:06AM BLOOD ___
___ 01:20PM BLOOD ___
___ 02:10AM BLOOD ___ PTT-34.3 ___
___ 05:06AM BLOOD Glucose-96 UreaN-21* Creat-0.9 Na-132* 
K-4.5 Cl-98 HCO3-27 AnGap-12
___ 08:35AM BLOOD Glucose-134* UreaN-21* Creat-1.0 Na-131* 
K-3.7 Cl-98 HCO3-26 AnGap-11
___ 02:04AM BLOOD ALT-22 AST-106* LD(LDH)-408* AlkPhos-36* 
Amylase-39 TotBili-0.6
___ 04:25PM BLOOD Calcium-7.6* Phos-2.6* Mg-2.0
.
___ CXR
___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 10:19 
AM 
 
  
___ FA6A ___ 10:19 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: follow up Right hydropneumothorax & L pneumothorax and 
Predi 
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old man s/p redosternotomy, tiss AVR, tiss MVR, and 
aortic root  
   enlargement 
REASON FOR THIS EXAMINATION: 
   follow up Right hydropneumothorax & L pneumothorax and 
Predischarge eval  

 
 
Final Report 
EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  ___ year old man s/p redosternotomy, tiss AVR, tiss 
MVR, and 
aortic root enlargement  // follow up Right hydropneumothorax   
L pneumothorax 
and Predischarge eval     follow up Right hydropneumothorax   L 
pneumothorax 
and Predi 
  
COMPARISON:  Chest radiographs ___ through ___. 
  
IMPRESSION:  
  
Both the moderate, loculated right apical hydro pneumothorax and 
the dependent 
moderate right pleural effusion have increased since ___.  Moderate 
left pleural effusion is stable. Aside from attendant 
atelectasis at the base 
the right lung, and milder atelectasis at the base of the left, 
lungs are 
clear.  Heart is normal size. 
Right jugular line or shunt ends in the right atrium. 
  
___, MD electronically signed on ___ ___ 11:55 
AM 
 
  Imaging Lab 
 
There is no report history available for viewing. 
.

 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent Redo Sternotomy, Aortic valve replacement 
with a 21 mm Magna Ease ___ pericardial 
valve, Mitral valve replacement with a 27 mm Biocor Epic tissue 
valve, and Aortic root enlargement.  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  Additional left chest tube was placed for 
pneumothorax shortly after ICU arrival. 

POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery.  

He started ilotycin ointment for eye pain that began after 
waking from anesthesia.  
He has had no vision deficits. Discomfort persisted and 
ophthalmology was consulted.  Lubricating eye drops are 
recommended.

Chest tube removal was delayed due to high output and recurring 
pneumothoraces during clamping trials.  His mediastinal chest 
tubes were removed without difficulty.  His left pleural was 
removed on POD 5 with small apical residual pneumothorax.  His 
right pleural tube was removed on POD 8. Follow-up CXRays 
revealed persistent hydro-pneumothorax.  Thoracic Surgery 
consulted and followed along.  Diuresis was increased and CXRays 
followed.  The patient will follow-up withi Thoracic Surgery in 
2 weeks. 

His temporary pacing wire removal was delayed until POD 4 due to 
postoperative thrombocytopenia (40K). His HITT result was 
negative, and platelets spontaneously improved.  He was seen by 
the Hematology team with suspected etiology of relation to 
bypass circuit, drug-induced immune thrombocytopenia (most 
likely due to cephalosporin antibiotic), possibly consumption by 
bleeding (although did not have massive bleeding) or some 
combination of all of the above.

He also developed post-operative AFib.  He did convert to SR 
prior to discharge.  He is rate controlled and will be 
discharged on Coumadin.  
He did have scant sternal drainage of the inferior pole.  WBC 
remained normal and he was afebrile.  He will be discharged with 
instructions to apply Chloraprep BID.  He will return for a 
wound check later this week.  Additionally, the left chest tube 
site continues to drain serous fluid.  The patient will 
reinforce dressings prn. 

The patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 11 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged home in good condition with appropriate 
follow up instructions.  Cardiac Surgery will follow 
anti-coagulation for the remainder of the week and Dr. ___ 
will assume management next ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO BID 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN cp 
4. Ramipril 20 mg PO DAILY 
5. Aspirin 162 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Cyanocobalamin 500 mcg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Cyanocobalamin 500 mcg PO DAILY 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
6. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. TraMADOL (Ultram) 50 mg PO Q4H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
8. Warfarin 2 mg PO DAILY16 
dose to change daily for goal INR ___ 
RX *warfarin 2 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q3H:PRN break thru 
pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q3h Disp #*60 Tablet 
Refills:*0
10. Furosemide 40 mg PO BID 
RX *furosemide 40 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
11. Potassium Chloride 20 mEq PO BID Duration: 24 Hours 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
12. Acetaminophen ___ mg PO Q6H:PRN pain 
13. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
14. Radiology
PA/Lateral Chest X-Ray
___, 2:15pm
___, Radiology- ___ floor

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
post-op AFib 
hydro-pneumothorax 
 
Coronary Artery Disease 
Hyperlipidemia (diet controlled/vegan diet)  
Aortic stenosis 
Mild valve regurgitation 
Pleural effusion  
Mild carotid artery disease 
Hodgkin's disease diagnosed at age ___ with three recurrences s/p 

radiation treatments & chemotherapy 
Chronic hepatitis C/mod liver fibrosis following transfusion 
(currently denied from taking Harvoni and is appealing)  
Hypothyroidism 
___ resection of lipoma from abdomen 
GERD (controlled by diet) 
Right shoulder necrosis c/b impingement  
Past Surgical History: 
Tonsillectomy 
Cholecystectomy, ___ 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema- scant drainage 
inferior pole of sternotomy
left chest tube site with serous drainage.
Edema - trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___